US05756502
3-(3-Isopropoxy-phenyl)-2-thioxo-2,3-dihydro-1H-quinazolin-4-one
To a solution of 3-isopropoxy aniline (6.0 g, 40 mmol), in 150 mL of CHC3 was added dropwise thiophosgene (2.81 mL, 44 mmol) at 0° C. After the addition of thiophosgene, triethylamine (7.0 mL, 48 mmol) was added slowly and the reaction mixture was stirred for 2 hours at room temperature. It was then concentrated and diluted with 200 mL of ethyl acetate. The triethylamine hydrochloride salt was filtered off and the filtrate was concentrated to yield crude 3-isopropoxyphenyl isothiocyanate. The crude 3-isopropoxyphenyl isothiocyanate was dissolved in 150 mL of acetic acid, and anthranilic acid (6.04 g, 44 mmol) was added. The resulting reaction mixture was refluxed for 16 hours and then cooled to room temperature. The white solid was separated which was filtered to yield 9.0 g of the title compound (72.1%), mp 288°-290° C.

reactant | 3-isopropoxyphenyl isothiocyanate | C(C)(C)OC=1C=C(C=CC1)N=C=S | C10H11NOS
reactant | anthranilic acid | 44 mmol, 6.04 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 3-(3-Isopropoxy-phenyl)-2-thioxo-2,3-dihydro-1H-quinazolin-4-one | 9.0 g, 72.1% | C(C)(C)OC=1C=C(C=CC1)N1C(NC2=CC=CC=C2C1=O)=S | C17H16N2O2S
